US07598240B2
5-(4-Methoxyphenyl)-2-oxopentanoic acid (62.7 g) was dissolved in THF (1 L) and triethylamine (46.8 ml) was added thereto. A solution of (−)-DIP-Cl (100 g) in THF (600 ml) was added dropwise thereto while maintaining the temperature at −25° C. to −35° C. The resulting mixture was warmed up to room temperature and stirred for 2 hours, and then water (500 ml) was added thereto at 20° C. or lower. A 6N aqueous sodium hydroxide solution (120 ml) was added thereto and stirred for 15 minutes. Thereafter, diisopropyl ether (300 ml) was added thereto to effect separation into two layers. The aqueous layer was washed twice with diisopropyl ether (300 ml) and then a 6N aqueous hydrochloric acid solution was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product. The crude product was dissolved in acetonitrile (640 ml), followed by adding thereto (+)-tolylethylamine (39 g), and the resulting mixture was heated under reflux to dissolve the amine completely. Crystals were precipitated at room temperature and collected by filtration. A 1N aqueous hydrochloric acid solution was added to the crystals obtained, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was crystallized from a mixed solvent of diisopropyl ether and hexane (1/1) to obtain (2R)-2-hydroxy-5-(4-methoxyphenyl)pentanoic acid (29.8 g, 98% e.e.).

reactant | 5-(4-Methoxyphenyl)-2-oxopentanoic acid | 62.7 g | COC1=CC=C(C=C1)CCCC(C(=O)O)=O | C12H14O4
reactant | sodium hydroxide | 6N, 120 ml | [OH-].[Na+]
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
reactant | (+)-tolylethylamine | 39 g | C1(=C(C=CC=C1)CCN)C | C9H13N
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 640 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
solvent | triethylamine | 46.8 ml | C(C)N(CC)CC | C6H15N
product | (2R)-2-hydroxy-5-(4-methoxyphenyl)pentanoic acid | 29.8 g | O[C@@H](C(=O)O)CCCC1=CC=C(C=C1)OC | C12H16O4
